US06750252B2
Ethyl 2-ethoxy-3-[3-methyl-4-(2-{4-[(methylsulfonyl)oxy]phenyl}ethoxy)phenyl]propanoate
Ethyl 2-ethoxy-3-(4-hydroxy-3-methylphenyl)propanoate (0.27 g, 1.05 mmole) and 4-{2-[(methylsulfonyl)oxy]ethyl}phenyl methanesulfonate (0.62 g, 2.11 mmole) were dissolved in 2-butanone (10 ml). Polyethyleneglycol 400 (0.20 g) and anhydrous potassium carbonate (0.22 g, 1.58 mmole) were added the mixture. After stirring at reflux for 16 hours it was checked with using HPLC whether all the starting material was consumed. The mixture was washed with water dried with magnesium sulfate and evaporated. Purification of the crude product with preparative HPLC (Kromasil C8, 7 μm, 50×250 mm) using actonitrile(60-80%) in ammonium acetate buffer (pH 7) as mobile phase gave 0.28 g (54% yield) of the desired product.

reactant | Ethyl 2-ethoxy-3-(4-hydroxy-3-methylphenyl)propanoate | 1.05 mmole, 0.27 g | C(C)OC(C(=O)OCC)CC1=CC(=C(C=C1)O)C | C14H20O4
reactant | 4-{2-[(methylsulfonyl)oxy]ethyl}phenyl methanesulfonate | 2.11 mmole, 0.62 g | CS(=O)(=O)OC1=CC=C(C=C1)CCOS(=O)(=O)C | C10H14O6S2
reactant | potassium carbonate | 1.58 mmole, 0.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | Ethyl 2-ethoxy-3-[3-methyl-4-(2-{4-[(methylsulfonyl)oxy]phenyl}ethoxy)phenyl]propanoate | 0.28 g, 54% yield | C(C)OC(C(=O)OCC)CC1=CC(=C(C=C1)OCCC1=CC=C(C=C1)OS(=O)(=O)C)C | C23H30O7S
